US07253286B2
N-(4-(6-Cyano-7-(2-chloroethoxy)-4-quinolyl)oxyphenyl)-N′-(4-fluorophenyl)urea
N-(4-(6-Cyano-7-hydroxy-4-quinolyl)oxyphenyl)-N′-(4-fluorophenyl)urea (400 mg, 0.9166 mmol) was dissolved in dimethylformamide (5.0 ml), and then 1-bromo-2-chloroethane (0.12 ml, 1.4479 mmol) and potassium carbonate (200 mg, 1.4479 mmol) were added and the mixture was heated and stirred at 55° C. for 4 hours. After cooling, tetrahydrofuran and ethyl acetate were added, the mixture was washed with saturated brine and dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, and the residue was subjected to NH silica gel column chromatography (ethyl acetate-methanol system). The obtained crystals were suspended in diethyl ether, the suspension was diluted with hexane, and the crystals were filtered out, washed with hexane and dried by aspiration to obtain the title compound (331 mg, 0.6941 mmol, 75.72%) as light yellow crystals.

reactant | N-(4-(6-Cyano-7-hydroxy-4-quinolyl)oxyphenyl)-N′-(4-fluorophenyl)urea | 0.9166 mmol, 400 mg | C(#N)C=1C=C2C(=CC=NC2=CC1O)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C23H15FN4O3
reactant | 1-bromo-2-chloroethane | 1.4479 mmol, 0.12 ml | BrCCCl | C2H4BrCl
reactant | potassium carbonate | 1.4479 mmol, 200 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-(6-Cyano-7-(2-chloroethoxy)-4-quinolyl)oxyphenyl)-N′-(4-fluorophenyl)urea | 0.6941 mmol, 331 mg, 75.72% | C(#N)C=1C=C2C(=CC=NC2=CC1OCCCl)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C25H18ClFN4O3
